US08487108B2
Methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-5,5-dimethyl-1-(N-methyl-N-(2-trimethylsilylethoxycarbonyl)amino)hexan-2-ylcarbamoyl)piperidin-3-yl)methoxy)ethylcarbamate was dissolved in CH3CN and treated with 75 mg (0.504 mmol, 4.5 equiv) of TEAF and the mixture heated to 55° C. for 3 h. The solution was evaporated and purified by prep HPLC to afford methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-5,5-dimethyl-1-(methylamino)hexan-2-ylcarbamoyl)piperidin-3-yl)methoxy)ethylcarbamate.

reactant | Methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-5,5-dimethyl-1-(N-methyl-N-(2-trimethylsilylethoxycarbonyl)amino)hexan-2-ylcarbamoyl)piperidin-3-yl)methoxy)ethylcarbamate | ClC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CN(CCC1)C(N[C@H](CN(C(=O)OCC[Si](C)(C)C)C)CCC(C)(C)C)=O | C32H55ClN4O6Si
reactant | TEAF | 0.504 mmol, 75 mg, 4.5 equiv | CCN(CC)CC.C(=O)O
solvent | CH3CN | CC#N | C2H3N
product | methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-5,5-dimethyl-1-(methylamino)hexan-2-ylcarbamoyl)piperidin-3-yl)methoxy)ethylcarbamate | ClC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CN(CCC1)C(N[C@H](CNC)CCC(C)(C)C)=O | C26H43ClN4O4
